US04266005
1 Mole of maleic anhydride and 300 g of dimethylformamide were charged into a 2-liter three-necked flask and stirred to dissolve the maleic anhydride into the dimethylformamide. To the resulting solution were added, with stirring, 1.02 moles of laurylamine over a period of 30 minutes while cooling the flask in a cold water bath. The exothermic reaction occurred simultaneously with the addition of the laurylamine which was, therefore, so carefully done that the temperature of the reaction mixture could be maintained at around 50° C. Immediately after completion of the addition of the laurylamine, the bath temperature was increased to 50° C. at which the stirring was continued for 1 hour. After completion of the amide-formation reaction, 1.6 moles of acetic anhydride, 0.016 mole of nickel acetate and 0.16 mole of triethylamine were added, with stirring, to the reaction mixture. The resulting mixture was heated to 90°-95° C. at which the stirring was continued for 1.5 hours to effect the dehydration reaction. Subsequently, the reaction mixture was cooled to room temperature and poured into ice and water to yield a precipitate. The precipitate was collected by filtration, washed with water, neutralized with sodium carbonate and recrystallized twice from water-containing ethanol (90%) to obtain white crystals of N-laurylmaleimide having a melting point of 56° C.

reactant | maleic anhydride | 1 Mole | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | laurylamine | 1.02 moles | C(CCCCCCCCCCC)N | C12H27N
reactant | acetic anhydride | 1.6 moles | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.16 mole | C(C)N(CC)CC | C6H15N
catalyst | nickel acetate | 0.016 mole | C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 g | CN(C=O)C | C3H7NO
product | N-laurylmaleimide | C(CCCCCCCCCCC)N1C(C=CC1=O)=O | C16H27NO2
